US09388189B2
(S)-1-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea
(S)-1-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea (18 mg, 0.03 mmol) was treated with trifluoroacetic acid (360 μl, 4.07 mmol) and a solution of ammonia (7N in methanol, 360 μl, 2.52 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 13 mg (90% yield) of the title compound.

reactant | (S)-1-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea | 0.03 mmol, 18 mg | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NC(=O)N | C34H39N9O4Si
reactant | trifluoroacetic acid | 4.07 mmol, 360 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 2.52 mmol, 7N, 360 μl | N | H3N
product | (S)-1-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea | 13 mg, 90% yield | OC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NC(=O)N | C28H25N9O3
